US07476399B2
N-((2,3-dihydrobenzo[b][1,4]dioxin-5-yl)methyl)-N′-(2-(pyridin-2-yl)ethyl)oxalamide
Prepared in a similar manner to example 122 using (2,3-dihydrobenzo[b][1,4]dioxin-5-yl)methanamine, ethyl oxalyl chloride, and 2-(2-pyridinyl)ethyl amine; yield 50%; m/e=342 [M+1].

reactant | (2,3-dihydrobenzo[b][1,4]dioxin-5-yl)methanamine | O1C2=C(OCC1)C(=CC=C2)CN | C9H11NO2
reactant | 2-(2-pyridinyl)ethyl amine | N1=C(C=CC=C1)CCN | C7H10N2
product | N-((2,3-dihydrobenzo[b][1,4]dioxin-5-yl)methyl)-N′-(2-(pyridin-2-yl)ethyl)oxalamide | yield 50% | O1C2=C(OCC1)C(=CC=C2)CNC(C(=O)NCCC2=NC=CC=C2)=O | C18H19N3O4
